US08389555B2
STEP D: Preparation of N-adamantyl-5-hydroxypentanamide
A solution of 3.6 mL (25 mmol) of Et3N in 6.7 mL of 1,2-dichloroethane was added drop by drop under ice cooling to a suspension of 2.47 g (18.3 mmol) AlCl3 in 13.3 mL of dichloroethane. At room temperature a solution of 2.77 g (18.3 mmol) adamantane and 1.55 mL (16.7 mmol) delta-valerolactone in 10 mL of 1,2-dichloroethane was added to the mixture. After one hour of stirring at room temperature the mixture was quenched with ice water and stirred for another 30 minutes. The suspension was filtered by Celite. After addition of dichloromethane, separation of the organic layer, washing it with water, drying it with Na2SO4 and the solvent was evaporated. The product can be taken for further reactions.

reactant | Et3N | 25 mmol, 3.6 mL | CCN(CC)CC | C6H15N
reactant | AlCl3 | 18.3 mmol, 2.47 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | adamantane | 18.3 mmol, 2.77 g | C12CC3CC(CC(C1)C3)C2 | C10H16
reactant | delta-valerolactone | 16.7 mmol, 1.55 mL | C1(CCCCO1)=O | C5H8O2
solvent | 1,2-dichloroethane | 6.7 mL | ClCCCl | C2H4Cl2
solvent | dichloroethane | 13.3 mL | ClC(C)Cl | C2H4Cl2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | N-adamantyl-5-hydroxypentanamide | C12(CC3CC(CC(C1)C3)C2)NC(CCCCO)=O | C15H25NO2
